US07935719B2
To a solution of (2.3 g, 19.46 mmol) 1H-benzimidazole in DMF (80 mL) at 0° C. was added sodium hydride (0.78 g, 19.46 mol, 60 wt. %) and the reaction mixture was stirred at 0° C. for 30 minutes, then at room temperature for 1 hour. Methyl 4-fluorobenzoate (3.0 g, 19.46 mmol) was then added and the reaction mixture was heated at 85° C. for 24 h. The reaction mixture was cooled to room temperature, diluted with water (300 mL) and extracted with dichloromethane (4×250 mL). The combined organic layers were washed with water (2×250 mL), saturated aqueous sodium chloride (200 mL), dried (magnesium sulfate) and the solvent removed in vacuo to give a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 2:10) provided 3.7 g (76%) of methyl 4-(1H-benzimidazol-1-yl)benzoate as a white solid. To a solution of methyl 4-(1H-benzimidazol-1-yl)benzoate (3.7 g, 14.7 mmol) dissolved in THF/MeOH (1:1, 90 mL) was added 1.0 M aqueous NaOH (0.587 g, 14.67 mmol) and the reaction mixture was allowed to stir for 12 h at room temperature and the solvent removed in vacuo. The residue was diluted with water (100 mL), cooled to 0° C., and the pH was adjusted to 6.0 with 1.0 N aqueous HCl. The resulting precipitate was filtered and dried to afford 3.4 g (96%) of 4-(1H-benzimidazol-1-yl)benzoic acid as a white solid. MS [239.0 m/e (M+H)].

reactant | 1H-benzimidazole | 19.46 mmol, 2.3 g | N1C=NC2=C1C=CC=C2 | C7H6N2
reactant | sodium hydride | 19.46 mol, 0.78 g | [H-].[Na+]
reactant | Methyl 4-fluorobenzoate | 19.46 mmol, 3.0 g | FC1=CC=C(C(=O)OC)C=C1 | C8H7FO2
solvent | DMF | 80 mL | CN(C)C=O | C3H7NO
solvent | water | 300 mL | O | H2O
product | methyl 4-(1H-benzimidazol-1-yl)benzoate | 3.7 g, 76% | N1(C=NC2=C1C=CC=C2)C2=CC=C(C(=O)OC)C=C2 | C15H12N2O2
